US06677345B1
1.6 Preparation of 2,6-Diamino-4-cyclohexylmethoxy-5-pyrimidine carbaldehyde (NU6055)
The mixture of 2-Amino-4-cyclohexylmethoxy-6-di(4-methoxybenzyl)amino-5-pyrimidine carbaldehyde and cyclohexylmethanol obtained previously was stirred in trifluoracetic acid (2 ml) at 65° C. for 24 h. The same workup procedure was used as previously, with purification of the product by column chromatography eluting with 40% EtOAc/petrol (40:60) yielding a pale yellow solid. M.p. 159-160° C.

reactant | 2-Amino-4-cyclohexylmethoxy-6-di(4-methoxybenzyl)amino-5-pyrimidine carbaldehyde | NC1=NC(=C(C(=N1)OCC1CCCCC1)C=O)N(CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC | C28H34N4O4
reactant | cyclohexylmethanol | C1(CCCCC1)CO | C7H14O
solvent | trifluoracetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2,6-Diamino-4-cyclohexylmethoxy-5-pyrimidine carbaldehyde | NC1=NC(=C(C(=N1)OCC1CCCCC1)C=O)N | C12H18N4O2
